US07214800B2
c) (3-{(S)-1-[(R)-1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-4,5-dihydro-1H-imidazol-4-yl}-propyl)-carbamic acid benzyl ester
A solution of (1-{[[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-(1-p-tolyl-methanoyl)-amino]-methyl}-4-benzyloxycarbonylamino-butyl)-carbamic acid tert-butyl ester (235 mg, 0.37 mmol) in CH2Cl2/TFA (4:1, 5 mL) was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the residue was diluted with CH2Cl2 (10 mL) and washed with saturated aqueous NaHCO3 (10 mL). The aqueous layer was extracted with CH2Cl2 and the combined extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was diluted with THF (10 mL) and saturated aqueous NaHCO3 (1 mL). The mixture was stirred at room temperature for 10 days, diluted with ether (20 mL) and washed with brine. The aqueous layer was extracted with two 10 mL portions of EtOAc and the combined extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (19:1 CH2Cl2:MeOH) to provide 81 mg (40%) of the title compound as a pale white powder. MS(ES+) m/e 675.6 [M+H]+.

reactant | (1-{[[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-(1-p-tolyl-methanoyl)-amino]-methyl}-4-benzyloxycarbonylamino-butyl)-carbamic acid tert-butyl ester | 0.37 mmol, 235 mg | C(C)(C)(C)OC(NC(CCCNC(=O)OCC1=CC=CC=C1)CN(C(=O)C1=CC=C(C=C1)C)C(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)=O | C45H52ClN5O6
solvent | CH2Cl2 TFA | 5 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | (3-{(S)-1-[(R)-1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-4,5-dihydro-1H-imidazol-4-yl}-propyl)-carbamic acid benzyl ester | 81 mg, 40% | C(C1=CC=CC=C1)OC(NCCC[C@@H]1N=C(N(C1)[C@H](C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)C1=CC=C(C=C1)C)=O | C40H42ClN5O3
